US04080453
A solution of 3-(2-hydroxyethyl)-2-phenyloxazolidine (11.0 g) in anhydrous ether (30 ml) is added dropwise with stirring to Grignard reagent which is prepared from magnesium turnings (3.3 g) and m-methoxybenzyl chloride (20.7 g) in anhydrous ether (150 ml), and the mixture is refluxed for 3 hours. After the reaction, the reaction mixture is decomposed by adding water thereto. The ether layer is separated and extracted with 10% hydrochloric acid (100 ml). The hydrochloric acid layer is made alkaline with ammonia and extracted with ether. The ether layer is dried over anhydrous sodium sulfate, and the solvent is distilled off to give crude dl-N,N-bis(2-hydroxyethyl)-2-(3-methoxyphenyl)-1-phenylethylamine (12.7 g) as an oily substance. When this substance is recrystallized from ethanol, it shows a melting point of 67°-69° C.

reactant | 3-(2-hydroxyethyl)-2-phenyloxazolidine | 11.0 g | OCCN1C(OCC1)C1=CC=CC=C1 | C11H15NO2
reactant | magnesium | 3.3 g | [Mg] | Mg
reactant | m-methoxybenzyl chloride | 20.7 g | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | water | O | H2O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
product | N,N-bis(2-hydroxyethyl)-2-(3-methoxyphenyl)-1-phenylethylamine | 12.7 g | OCCN(CCO)C(CC1=CC(=CC=C1)OC)C1=CC=CC=C1 | C19H25NO3
